US05858995
A mixture of 6-(2,6-dichlorobenzoylamino)-1-hydroxy-1,2,3,4-tetrahydrodibenzofuran (500 mg), methanesulfonyl chloride (880 mg) and triethylamine (1.19 g) in dichloromethane was refluxed for 4 hours. The mixture was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel and the obtained oil was crystallized from a mixture of 2-propanol and water to give 6-(2,6-dichlorobenzoylamino)-3,4-dihydrodibenzofuran (173 mg).

reactant | 6-(2,6-dichlorobenzoylamino)-1-hydroxy-1,2,3,4-tetrahydrodibenzofuran | 500 mg | ClC1=C(C(=O)NC2=CC=CC=3C4=C(OC32)CCCC4O)C(=CC=C1)Cl | C19H15Cl2NO3
reactant | methanesulfonyl chloride | 880 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.19 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(2,6-dichlorobenzoylamino)-3,4-dihydrodibenzofuran | 173 mg | ClC1=C(C(=O)NC2=CC=CC=3C4=C(OC32)CCC=C4)C(=CC=C1)Cl | C19H13Cl2NO2
